US04289695
Preparation of 4-vinylpyridine-N,N'-methylenebisacrylamide
To a one-liter, 3-neck round bottom flask equipped with a heating mantle, nitrogen bubbler, stirrer, thermometer and reflux condenser were added 200 ml of deionized water and 75 g of sodium chloride. The solution was stirred under nitrogen for 30 minutes at room temperature and a solution of 30.0 g of 4-vinylpyridine, 3.0 g of N,N'-methylenebisacrylamide and 0.2 g of azobisisobutyronitrile in 90 ml of diisobutylketone was added. The temperature of the reaction solution was increased to between about 65° C. and about 70° C. with rapid stirring (200 rpm). After about 30 minutes some precipitate formed.

reactant | sodium chloride | 75 g | [Cl-].[Na+]
reactant | 4-vinylpyridine | 30.0 g | C(=C)C1=CC=NC=C1 | C7H7N
reactant | N,N'-methylenebisacrylamide | 3.0 g | C(NC(C=C)=O)NC(C=C)=O | C7H10N2O2
reactant | azobisisobutyronitrile | 0.2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | diisobutylketone | 90 ml | C(C(C)C)C(=O)CC(C)C | C9H18O
solvent | water | 200 ml | O | H2O
product | 4-vinylpyridine N,N'-methylenebisacrylamide | C(=C)C1=CC=NC=C1.C(NC(C=C)=O)NC(C=C)=O | InChI=1S/C7H10N2O2.C7H7N/c1-3-6(10)8-5-9-7(11)4-2;1-2-7-3-5-8-6-4-7/h3-4H,1-2,5H2,(H,8,10)(H,9,11);2-6H,1H2
